US07592477B2
Step d) Formation of ethyl[benzyl(4-{[4-(hexyloxy)benzoyl]amino}benzyl)amino]-(oxo)acetate
The same procedure as employed in the preparation of Example 15, step d but using 4-hexyloxy-benzoyl chloride and ethyl[(4-aminobenzyl)(benzyl)amino](oxo)acetate gave the title compound as a colorless oil (58%). M−(ESI): 515.2. HPLC (Condition A), Rt: 6.0 min (HPLC purity: 94.9%).

reactant | 4-hexyloxy-benzoyl chloride | C(CCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C13H17ClO2
reactant | ethyl[(4-aminobenzyl)(benzyl)amino](oxo)acetate | C(C)OC(C(=O)N(CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C18H20N2O3
product | ethyl[benzyl(4-{[4-(hexyloxy)benzoyl]amino}benzyl)amino]-(oxo)acetate | 58% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)OCCCCCC)=O)CC1=CC=CC=C1)=O | C31H36N2O5
